* C:\Users\ohvic\Documents\ITBA\ASSD-2020-G4\TP1 - Muestreo\Filtro LP\SPICE\LPRauch.asc
XU1 0 N002 +Vcc -Vcc Vout TL082
V1 Vin 0 AC 1
V2 +Vcc 0 +15
V3 -Vcc 0 -15
R1 N001 Vin 1.1k
R2 N002 N001 2.05k
R3 N001 Vout 1.1k
C1 N001 0 43n
C2 Vout N002 100p
.ac dec 100 1k 1Meg
.lib C:\Users\ohvic\Downloads\TL082.301
.backanno
.end
